US07829644B2
N-Hydroxysuccinimide methacrylate (NHS-MA).
Methacryloyl chloride (0.1 mol) in 25 ml of tetrahydrofuran was added dropwise with stirring and ice cooling to the solution of N-hydroxysuccinimide (0.1 mol) and triethylamine (0.1 mol) in 100 ml of tetrahydrofuran. After 1 hour of stirring at room temperature the precipitate is removed and filtrate is evaporated in vacuum. The residue was crystallized from methanol to give the product with 75% yield. M.P. 102-104° C.; M.p. lit. 103° C. (H.-G. Batz et al. Angew. Chem. Intern. Edit., 1972, v.11, N12, 1103-1104).

reactant | Methacryloyl chloride | 0.1 mol | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | N-hydroxysuccinimide | 0.1 mol | ON1C(CCC1=O)=O | C4H5NO3
reactant | triethylamine | 0.1 mol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Hydroxysuccinimide methacrylate | 75% yield | C(C(=C)C)(=O)O.ON1C(CCC1=O)=O | InChI=1S/C4H5NO3.C4H6O2/c6-3-1-2-4(7)5(3)8;1-3(2)4(5)6/h8H,1-2H2;1H2,2H3,(H,5,6)
